US09422244B2
2,3-Diaza-spiro[4.4]non-1-ene hydrochloride (15.4 g, 95.9 mmol; isolated from reaction of 2,3-diaza-spiro[4.4]non-2-ene, synthesized as described in WO 2008/034863, with HCl in isopropanol/toluene) was taken up in a mixture of 70 mL methanol and 30 mL water. Ethyl isothiocyanate (10.09 g, 115.1 mmol) was added using an addition funnel, and the funnel was rinsed with 40 mL methanol. At 30° C., diisopropylethylamine (14.8 g, 114.5 mmol) was added dropwise over a period of 10 minutes, and the addition funnel was rinsed with 7 mL water. After stirring the reaction mixture for 1 hour at 30° C., the mixture was cooled to 10° C. over a period of 1 hour and subsequently stirred at this temperature for another 2 hours. The precipitate was isolated by filtration, washed twice with 20 mL of a cold 3:1 mixture of methanol and water and dried at 50° C. under reduced pressure to give 16.8 g (83%) of 2,3-diaza-spiro[4.4]non-3-ene-2-carbothioic acid ethylamide as a white to off-white solid. 1H NMR identical to spectrum obtained from material prepared on small scale (vide supra).

reactant | 2,3-Diaza-spiro[4.4]non-1-ene hydrochloride | 95.9 mmol, 15.4 g | Cl.C1=NNCC12CCCC2
reactant | Ethyl isothiocyanate | 115.1 mmol, 10.09 g | C(C)N=C=S | C3H5NS
reactant | diisopropylethylamine | 114.5 mmol, 14.8 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 70 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 2,3-diaza-spiro[4.4]non-3-ene-2-carbothioic acid ethylamide | 16.8 g, 83% | C(C)NC(=S)N1CC2(C=N1)CCCC2 | C10H17N3S
